US07947715B2
N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl(phenyl)methyl]cyclopropanecarboxamide (Compound of the present invention No. 2-060)
In a solution of 0.80 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzonitrile in 10 mL of tetrahydrofuran under nitrogen atmosphere, 1.0 mL of 32% tetrahydrofuran solution of phenyl magnesium bromide was added dropwise with stirring at room temperature, after the completion of the addition dropwise, it was continued to stir at room temperature further for 3.5 hours. After the completion of the reaction, the solvent was distilled off under reduced pressure, the residue was dissolved in 10 mL of methanol, 0.075 g of sodium boron hydride was added, and stirred at room temperature for 2 hours. The reaction mixture was diluted with 20 mL of ethyl acetate, washed with water (10 mL×2), and the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous magnesium sulfate in that order, and the solvent was distilled off under reduced pressure. The residue was dissolved in 20 mL of chloroform, and under cooling with ice and with stirring, 0.20 g of triethyl amine and 0.21 g of cyclopropanecarbonyl=chloride were added dropwise, after the completion of the addition dropwise, it was continued to stir at room temperature further for 1 hour. After the completion of the reaction, the reaction mixture was washed with water (10 mL×1), and the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous magnesium sulfate in that order, and the solvent was distilled off under reduced pressure. The residue was purified with medium pressure preparative liquid chromatography (medium pressure collection apparatus: YFLC-Wprep manufactured by Yamazen Corporation) that was eluted with ethyl acetate-hexane (gradient of 1:9 to 1:2) to obtain 0.16 g of the aimed products as colorless resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzonitrile | 0.80 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C#N)C=C1)C(F)(F)F | C17H9Cl2F3N2O
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl(phenyl)methyl]cyclopropanecarboxamide | 0.16 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)C(NC(=O)C1CC1)C1=CC=CC=C1)C(F)(F)F | C27H21Cl2F3N2O2
